US07276612B2
4-{2-[(3-Dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid potassium salt (20.0 g, 0.0476 mol) was suspended in N,N-Dimethylformamide (100 ml). 4 Molar hydrochloric acid in dioxane (11.9 ml, 0.0476 mol) was added to the suspension. After stirring for thirty minutes at ambient temperature, the reaction mixture was filtered through a medium frit. 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (10.94 g, 0.0571 mol) and 1-hydroxybenzotriazole (7.71 g, 0.0571 mol) were added to the solution and the reaction mixture was stirred one hour at ambient temperature. In a separate pot, hydroxylamine hydrochloride (13.2 g, 1.904 mol) was suspended in N,N-dimethylformamide (100 ml) and treated with triethylamine (33.1 ml, 2.380 mol). After stirring the reaction mixture for 1 h, the salt was filtered off and the resulting solution was added to the above activated acid solution and stirred at ambient temperature until completion of reaction. After the product began to crystallize, methanol (150 ml) was added slowly over thirty min. The reaction mixture was stirred for 1 h at ambient temperature then cooled to 0-5° C. and stirred another hour. The crystals were filtered and washed with methanol (40 ml) before being dried in vacuo to give 3-dimethylaminomethylbenzofuran-2-carboxylic acid [2-(4-hydroxy-carbamoylphenoxy)ethyl]amide (11.88 g) as a white solid. The crude material (13.25 g, 0.033 mol) was suspended in N,N-dimethylformamide (80 ml) and heated to 100° C. to give a solution. After cooling, ethanol (80 ml) was added drop-wise over thirty minutes and the resulting suspension was allowed to cool for an hour. The crystals were filtered and washed with ethanol (40 ml) and dried to give pure product (9.82 g) as a white solid.

reactant | 4-{2-[(3-Dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid potassium salt | 0.0476 mol, 20.0 g | [K+].CN(C)CC1=C(OC2=C1C=CC=C2)C(=O)NCCOC2=CC=C(C(=O)[O-])C=C2
reactant | hydrochloric acid | 4 Molar | Cl | ClH
reactant | dioxane | 0.0476 mol, 11.9 ml | O1CCOCC1 | C4H8O2
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.0571 mol, 10.94 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.0571 mol, 7.71 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydroxylamine hydrochloride | 1.904 mol, 13.2 g | Cl.NO
reactant | triethylamine | 2.380 mol, 33.1 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-dimethylaminomethylbenzofuran-2-carboxylic acid [2-(4-hydroxy-carbamoylphenoxy)ethyl]amide | 11.88 g | OC1=CC(=C(OCCNC(=O)C=2OC3=C(C2CN(C)C)C=CC=C3)C=C1)C(N)=O | C21H23N3O5
